US06169107A
To a mixture of 4.40 g (16.3 mmol) of methyl 4-(2,2-dimethoxyethyl)-3-nitrobenzoate in a solvent mixture of 200 ml of methanol and 2 ml of acetic acid was added 0.50 g of 5% palladium-carbon to perform catalytic hydrogenation at ambient temperature under normal pressure and then treat the reaction mixture in a conventional manner. Thus, 4.16 g of methyl 3-amino-4-(2,2-dimethoxyethyl)benzoate was obtained.

reactant | methyl 4-(2,2-dimethoxyethyl)-3-nitrobenzoate | 16.3 mmol, 4.40 g | COC(CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])OC | C12H15NO6
reactant | methanol | 200 ml | CO | CH4O
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | methyl 3-amino-4-(2,2-dimethoxyethyl)benzoate | 4.16 g | NC=1C=C(C(=O)OC)C=CC1CC(OC)OC | C12H17NO4
